### PR TITLE
[Merged by Bors] - feat: a bit more LinearIndepOn api

### PR DESCRIPTION
**Pull request by apnelson1**
We add some more API for `LinearIndepOn`.

The large import is so a lemma about dimension can be stated with `Set.encard` - it is unclear where such a lemma belongs if not where it is. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by apnelson1** [comment]
!bench

File: Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean [hunk 1]
```diff
@@ -371,6 +371,11 @@ theorem rank_span_set {s : Set M} (hs : LinearIndepOn R id s) : Module.rank R 
   rw [← @setOf_mem_eq _ s, ← Subtype.range_coe_subtype]
   exact rank_span hs
 
+theorem toENat_rank_span_set {ι : Type*} {v : ι → M} {s : Set ι}
```
Comment (madvorak) [inline Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean:374]: Do you need to redeclare `ι` here?

File: Mathlib/LinearAlgebra/Dimension/Basic.lean [hunk 2]
```diff
@@ -93,6 +92,10 @@ theorem cardinal_le_rank' {s : Set M}
     (hs : LinearIndependent R (fun x => x : s → M)) : #s ≤ Module.rank R M :=
   hs.cardinal_le_rank
 
+theorem _root_.LinearIndepOn.encard_le_toENat_rank {ι : Type*} {v : ι → M} {s : Set ι}
```
Comment (madvorak) [inline Mathlib/LinearAlgebra/Dimension/Basic.lean:95]: I would rather put it outside of the namespace than having to write `_root_` here.

**Review by madvorak — APPROVED** [review]

File: Mathlib/LinearAlgebra/Dimension/Basic.lean [hunk 3]
```diff
@@ -93,6 +92,10 @@ theorem cardinal_le_rank' {s : Set M}
...
+    (hs : LinearIndepOn R v s) : s.encard ≤ (Module.rank R M).toENat := by
+  simpa using OrderHom.mono (β := ℕ∞) Cardinal.toENat <| hs.linearIndependent.cardinal_lift_le_rank
```
Comment (madvorak) [inline Mathlib/LinearAlgebra/Dimension/Basic.lean:97]: Perhaps `<|` is not needed here?

File: Mathlib/LinearAlgebra/Dimension/Basic.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Dimension/Basic.lean:95]: I think it's fine as it is. I agree it is desirable to avoid `_root_` but the alternatives (additional sectioning or less `variable` reuse) seem at least as undesirable given that this is just one lemma.

File: Mathlib/LinearAlgebra/Dimension/Basic.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Dimension/Basic.lean:97]: Good point, we should drop the `<|`.

File: Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean [hunk 4]
```diff
@@ -371,6 +371,11 @@ theorem rank_span_set {s : Set M} (hs : LinearIndepOn R id s) : Module.rank R 
...
+    (hs : LinearIndepOn R v s) : (Module.rank R ↑(span R (v '' s))).toENat = s.encard := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean:375]: This is just a bunch of nitpicks but how about:
```suggestion
theorem toENat_rank_span_set {v : ι → M} {s : Set ι} (hs : LinearIndepOn R v s) :
    (Module.rank R <| span R (v '' s)).toENat = s.encard := by
```
I.e.:

- Martin's point about `ι` already existing
- Dropping `↑` (it's not officially in the style guide but I think we should only include these when necessary)
- Using `<|` to avoid `)))`
- When a line break is required, prioritise giving the content after the colon a line to itself

**Review by ocfnash — APPROVED** [review]
Thanks, and thanks also to @madvorak for help with review.

bors d+
